US07432392B2
To a solution of 4′-trifluoromethylbiphenyl-2-carboxylic acid {4-benzyloxy-2-[(2-chloroacetyl)isopropylamino]phenyl}amide (134 mg) in DMF (2 mL) were added potassium carbonate (48 mg) and sodium iodide (one spatula), and he mixture was stirred at 80° C. for 2 hours. The reaction solution was allowed to stand for cooling to room temperature, and diluted with ethyl acetate. The extract was washed with water and saturated brine, dried over sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=3:1) to give 7-benzyloxy-1-isopropyl-4-(4′-trifluoromethylbiphenyl-2-carbonyl)-3,4-dihydro-1H-quinoxalin-2-one (118 mg).

reactant | 4′-trifluoromethylbiphenyl-2-carboxylic acid {4-benzyloxy-2-[(2-chloroacetyl)isopropylamino]phenyl}amide | 134 mg | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)N(C(C)C)C(CCl)=O | C32H28ClF3N2O3
reactant | potassium carbonate | 48 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-benzyloxy-1-isopropyl-4-(4′-trifluoromethylbiphenyl-2-carbonyl)-3,4-dihydro-1H-quinoxalin-2-one | 118 mg | C(C1=CC=CC=C1)OC1=CC=C2N(CC(N(C2=C1)C(C)C)=O)C(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C32H27F3N2O3
